US08461179B1
7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (1.86 g, 4.3 mmol) and TFA (9.5 mL, 121 mmol) were combined and stirred at RT overnight. The mixture was treated slowly with 2M Na2CO3 until the mixture was just faintly basic, then stirred at RT for 1 h. The solids were collected by filtration, washed thoroughly with H2O, dried partially in the air and then under high vacuum at 65° C. The crude product was purified by flash column chromatography (THF/EtOAc) to afford 3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (0.86 g, 64% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.35 (s, 1H), 7.58 (s, 1H), 6.99 (q, J=4.8 Hz, 1H), 6.56 (d, J=12.0 Hz, 1H), 6.56 (d, J=9.2 Hz, 1H), 6.15 (s, 1H), 4.87 (br s, 2H), 3.48 (s, 3H), 2.84 (d, J=5.2 Hz, 3H), 1.94 (s, 3H); MS (ESI) m/z: 313.2 [M+H]+.

reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 4.3 mmol, 1.86 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)C)C)C=C1 | C25H25FN4O2
reactant | TFA | 121 mmol, 9.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 0.86 g, 64% yield | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)C)F | C17H17FN4O
